2103-02-03 05:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient admitted for melena, concern for upper GI bleed.
   S: Patient complains of some abdominal pain this morning but is
   otherwise well and awaiting scope per GI.
   Allergies:
   Aspirin
   Unknown; Nausea
   Ibuprofen
   Unknown; Nausea
   Gabapentin
   Unknown; Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-2-3**] 05:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.6
   HR: 70 (70 - 72) bpm
   BP: 109/60(72) {82/32(46) - 109/83(72)} mmHg
   RR: 17 (14 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
           1,542 mL
   PO:
           TF:
   IVF:
   732 mL
   Blood products:
   750 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,542 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : slight crackles at
   right base, No(t) Wheezes : ), otherwise CTA b/l
   Abdominal: Soft, Non-tender, No(t) Distended, hyperactive bowel sounds
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): PPT,
   Movement: Not assessed, Tone: Not assessed, slightly slowed speech but
   comprehensible; no asterixis
   Labs / Radiology
   52 K/uL
   8.1 g/dL
   156 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.2 mEq/L
   59 mg/dL
   103 mEq/L
   135 mEq/L
   22.2 %
   2.7 K/uL
        [image002.jpg]
                             [**2103-2-3**]  03:15 AM
   WBC
   2.7
   Hct
   22.2
   Plt
   52
   Cr
   1.0
   Glucose
   156
   Other labs: PT / PTT / INR:17.7/41.2/1.6, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   (#) GIB: likely UGI source given known esophageal varices with recent
   manipulation as well as h/o melana.  Hct lower than baseline and with
   lower BP, though more likely she has had a slow bleed after [**1-31**] EGD
   than a grossly bleeding ulcer (no active bleeding on recent EGD).
   -- maintain active T&S, two large bore IV's
   -- currently getting two units RBC's; goal Hct > 21 (unless serial
   Hct's show faster rate of bleed, in which case would have goal Hct
   24-27); serial Hct Q6 hours until stabilized
   -- platelets currently 60 (near baseline), INR 1.6; no need for
   platelet tx or FFP
   currently
   -- cont octreotide, IV PPI
   -- GI team aware; NPO for possible scope in am
   -- BP in 90's which is lower than baseline, though pt is overall
   petite; will monitor while getting blood and
   .
   (#) ESLD, PORTAL VEIN THROMBOSIS: from EtOH & Hep C; currently being
   evaluated for liver transplant (not listed yet).
   -- monitor for hepatic encephalopathy with GIB; currently no evidence
   of HE
   -- cont lactulose titrated to 3 BM's per day unless develops BRBPR
   -- cont cipro 250 mg QD PPX for SBP
   -- holding lasix, spironolactone and nadolol in setting of hypotension
   with bleed
   -- holding lovenox for PVT while GIB
   .
   (#) DIABETES:
   -- cont SSI + home dose glargine 44 units QHS (half dose when NPO)
   .
   (#) NEUROPATHY: stocking glove; likely [**2-26**] DM
   -- cont home oxycodone 5 mg [**Hospital1 **]
   .
   (#) ACCESS: 2 x 20 g PIV
   .
   (#) NUTRITION: NPO while waiting for scope
   .
   (#) PPX: IV PPI; no need for anticoag currently;lactulose for bowel
   regimen
   .
   (#) CODE: full
   .
   (#) COMMUNICATION: with patient
   .
   (#) DISPO: possible callout to floor on [**2-3**] if stable Hct and HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2103-2-3**] 02:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2103-02-03 10:10:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                            History obtained from [**Hospital 85**] Medical records
   Allergies:
   Aspirin
   Unknown; Nausea
   Ibuprofen
   Unknown; Nausea
   Gabapentin
   Unknown; Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2103-2-3**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 71 (70 - 72) bpm
   BP: 116/65(76) {82/32(46) - 116/83(80)} mmHg
   RR: 18 (11 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
           2,528 mL
   PO:
           TF:
   IVF:
   1,718 mL
   Blood products:
   750 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,528 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   52 K/uL
   156 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.2 mEq/L
   59 mg/dL
   103 mEq/L
   135 mEq/L
   22.4 %
   2.7 K/uL
        [image002.jpg]
                             [**2103-2-3**]  03:15 AM
                             [**2103-2-3**]  08:31 AM
   WBC
   2.7
   Hct
   22.2
   22.4
   Plt
   52
   Cr
   1.0
   Glucose
   156
   Other labs: PT / PTT / INR:17.7/41.2/1.6, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   52 yo female with ESLD secondary to Hep C and EtOH--she has known
   esophageal varices and is s/p banding and now presenting with melena
   concerning for recurrent GIB following procedure.  She did go to
   outside hosptial for evaluation and to [**Hospital1 54**] where patient had
   reasonable stability of BP, HR and had initial HCT=20 (baseline=27) and
   given concern for brisk bleeding patient to ICU for further care.
   1)GI Bleed-
   -PPI
   -Peripheral IV's in place
   -GI aware and for endoscopy this morning
   -OCtreotide  to continue until bleeding resolved
   -Cipro to continue
   2)Anemia Secondary to BLood Loss
   -HCT stable overnight with blood given and HCT to 22.
   -Lasix/Spironolcatone held
   3)Diabetes-_Type I--uncontrolled-
   -Insulin to continue
   4)Portal Vein Thrombosis-
   -Lovenox held at this point pending evlaution of source of
   bleeding
last dose yesterday morning
 DIABETES MELLITUS (DM), TYPE I
 .H/O HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ESOPHAGEAL VARICES
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2103-2-3**] 02:20 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2103-02-04 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2103-2-3**] 02:00 PM
   100mcg fentanyl and 3mg versed given for procedure. Hemodynamically
   stable.
 ULTRASOUND - At [**2103-2-3**] 09:00 PM
   [**2103-2-3**] Events
   - EGD showed evidence of large erosion that went past the junction.
   - GI wanted to get Abd US to evaluate if patient is candidate for TIPS
   procedure
   - Pt is having a difficult time coping with new finding of worsening
   varices, consulted SW
   - Gave D5 1/2NS for maintenance fluids, with clear liquids following
   abd US
   - Pt c/o cramping abdominal pain
   - Gave Ambien for insomnia
   Allergies:
   Aspirin
   Unknown; Nausea
   Ibuprofen
   Unknown; Nausea
   Gabapentin
   Unknown; Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-2-3**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-2-4**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.3
C (95.6
   HR: 69 (67 - 73) bpm
   BP: 104/64(72) {91/46(55) - 117/70(80)} mmHg
   RR: 14 (11 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,621 mL
                                                                    445 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                  2,691 mL
                                                                    325 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,621 mL
                                                                    445 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : slight crackles at
   right base, No(t) Wheezes : ), otherwise CTA b/l
   Abdominal: Soft, Non-tender, No(t) Distended, hyperactive bowel sounds
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): PPT,
   Movement: Not assessed, Tone: Not assessed, slightly slowed speech but
   comprehensible; no asterixis
   Labs / Radiology
   42 K/uL
   8.2 g/dL
   100 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.6 mEq/L
   48 mg/dL
   109 mEq/L
   139 mEq/L
   22.3 %
   2.5 K/uL
        [image002.jpg]
                             [**2103-2-3**]  03:15 AM
                             [**2103-2-3**]  08:31 AM
                             [**2103-2-3**]  03:14 PM
                             [**2103-2-3**]  08:30 PM
                             [**2103-2-4**]  03:15 AM
   WBC
   2.7
   2.5
   Hct
   22.2
   22.4
   22.3
   22.3
   22.3
   Plt
   52
   42
   Cr
   1.0
   1.0
   Glucose
   156
   100
   Other labs: PT / PTT / INR:17.3/33.9/1.6, ALT / AST:25/41, Alk Phos / T
   Bili:64/1.8, Albumin:3.1 g/dL, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   (#) GIB: likely UGI source given known esophageal varices with recent
   manipulation as well as h/o melana.  Hct lower than baseline and with
   lower BP, though more likely she has had a slow bleed after [**1-31**] EGD
   than a grossly bleeding ulcer (no active bleeding on recent EGD).
   -- maintain active T&S, two large bore IV's
   -- currently getting two units RBC's; goal Hct > 21 (unless serial
   Hct's show faster rate of bleed, in which case would have goal Hct
   24-27); serial Hct Q6 hours until stabilized
   -- platelets currently 60 (near baseline), INR 1.6; no need for
   platelet tx or FFP
   currently
   -- cont octreotide, IV PPI
   -- GI team aware; NPO for possible scope in am
   -- BP in 90's which is lower than baseline, though pt is overall
   petite; will monitor while getting blood and
   .
   (#) ESLD, PORTAL VEIN THROMBOSIS: from EtOH & Hep C; currently being
   evaluated for liver transplant (not listed yet).
   -- monitor for hepatic encephalopathy with GIB; currently no evidence
   of HE
   -- cont lactulose titrated to 3 BM's per day unless develops BRBPR
   -- cont cipro 250 mg QD PPX for SBP
   -- holding lasix, spironolactone and nadolol in setting of hypotension
   with bleed
   -- holding lovenox for PVT while GIB
   .
   (#) DIABETES:
   -- cont SSI + home dose glargine 44 units QHS (half dose when NPO)
   .
   (#) NEUROPATHY: stocking glove; likely [**2-26**] DM
   -- cont home oxycodone 5 mg [**Hospital1 **]
   .
   (#) ACCESS: 2 x 20 g PIV
   .
   (#) NUTRITION: NPO while waiting for scope
   .
   (#) PPX: IV PPI; no need for anticoag currently;lactulose for bowel
   regimen
   .
   (#) CODE: full
   .
   (#) COMMUNICATION: with patient
   .
   (#) DISPO: possible callout to floor on [**2-3**] if stable Hct and HD
 DIABETES MELLITUS (DM), TYPE I
 .H/O HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ESOPHAGEAL VARICES
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2103-2-3**] 02:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2103-02-04 10:15:00 Physician Attending Progress Note
Chief Complaint: Melena-GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2103-2-3**] 02:00 PM
   100mcg fentanyl and 3mg versed given for procedure. Hemodynamically
   stable.
   -Octreotide Continued
   -Large erosion seen and continued beyond GE junction wtih start in
   esophagus
 ULTRASOUND - At [**2103-2-3**] 09:00 PM
   -Compelted for evaluation of portal venous flow--partially occlusive
   thrombus seen in portal vein
   -Patient describes continued emotional overwhelm
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Aspirin
   Unknown; Nausea
   Ibuprofen
   Unknown; Nausea
   Gabapentin
   Unknown; Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-2-3**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Psychiatric / Sleep: Very upset and overwhelmed by current diagnosis
   Flowsheet Data as of  [**2103-2-4**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 76 (66 - 76) bpm
   BP: 118/75(86) {91/46(55) - 118/75(86)} mmHg
   RR: 14 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,621 mL
                                                                    818 mL
   PO:
             420 mL
   TF:
   IVF:
                                                                  2,691 mL
                                                                    398 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,621 mL
                                                                    818 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   42 K/uL
   100 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.6 mEq/L
   48 mg/dL
   109 mEq/L
   139 mEq/L
   22.3 %
   2.5 K/uL
        [image002.jpg]
                             [**2103-2-3**]  03:15 AM
                             [**2103-2-3**]  08:31 AM
                             [**2103-2-3**]  03:14 PM
                             [**2103-2-3**]  08:30 PM
                             [**2103-2-4**]  03:15 AM
   WBC
   2.7
   2.5
   Hct
   22.2
   22.4
   22.3
   22.3
   22.3
   Plt
   52
   42
   Cr
   1.0
   1.0
   Glucose
   156
   100
   Other labs: PT / PTT / INR:17.3/33.9/1.6, ALT / AST:25/41, Alk Phos / T
   Bili:64/1.8, Albumin:3.1 g/dL, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   53 yo female with history of Hep C and EtOH related cirrhosis now
   presenting with melena and blood loss anemia.  She has EGD with
   evidence of significant recent bleeding from esophageal varices and
   findings on abdominal ultrasound suggesting partially occlusive portal
   venous thrombus.  This may in part be contributing to elevated portal
   venous pressures and recurrent bleeding seen.  The issue becomes one of
   considering risk/benefit of anticoagulation for thrombus in the setting
   of recent bleeding.  In addition, this was found in the setting of
   recent Lovenox dosing and will hold on further Lovenox at this time.
   1)GI Bleed
   -Sucralfate, Pantoprazole to continue
   -Would continue active T+S
   -Is encouraging that patient has had reasonable stability of HCT and
   will continue q 6 hours
   -Hold Lovenox
   -T-Fuse for decrease to <21 or acute drop.
   2)Cirrhosis-
   -Nadolol to return first
   -Will continue Lactulose
   -Cipro to continue
 DIABETES MELLITUS (DM), TYPE I
 .H/O HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ESOPHAGEAL VARICES
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin sliding scale
   Lines:
   20 Gauge - [**2103-2-3**] 02:20 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2103-02-06 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2103-2-5**]
   - Continues to bleed PR, [**Last Name (un) 4601**] tube vs. TIPS today
   - Cordis placed
   - 2 Units FFP, 4 Units blood given o/n 2 @ 8pm, 2 @ 3am
   Allergies:
   Aspirin
   Unknown; Nausea
   Ibuprofen
   Unknown; Nausea
   Gabapentin
   Unknown; Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2103-2-4**] 10:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-2-5**] 01:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-2-6**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.3
   HR: 88 (82 - 95) bpm
   BP: 135/73(88) {96/63(71) - 141/86(93)} mmHg
   RR: 12 (10 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  2,660 mL
                                                                  1,488 mL
   PO:
           TF:
   IVF:
                                                                    282 mL
                                                                    196 mL
   Blood products:
                                                                  2,378 mL
                                                                  1,292 mL
   Total out:
                                                                    441 mL
                                                                    190 mL
   Urine:
                                                                    441 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,219 mL
                                                                  1,298 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Gen: Thin woman, jaundiced, uncomfortable appearing
   HEENT: Scleral icterus, pale conjunctiva
   CV: S1 & S2 regular without murmur
   Pulm: B CTA
   Abd: Nontender or distended
   Ext: No edema
   Labs / Radiology
   59 K/uL
   9.4 g/dL
   199 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.8 mEq/L
   34 mg/dL
   106 mEq/L
   137 mEq/L
   30.3 %
   5.0 K/uL
        [image002.jpg]
                             [**2103-2-3**]  08:30 PM
                             [**2103-2-4**]  03:15 AM
                             [**2103-2-4**]  10:02 AM
                             [**2103-2-4**]  04:21 PM
                             [**2103-2-5**]  09:02 AM
                             [**2103-2-5**]  12:38 PM
                             [**2103-2-5**]  06:21 PM
                             [**2103-2-5**]  09:40 PM
                             [**2103-2-6**]  01:53 AM
                             [**2103-2-6**]  05:40 AM
   WBC
   2.5
   5.0
   Hct
   22.3
   22.3
   23.9
   25.8
   19.4
   22.4
   24.1
   27.6
   24.5
   30.3
   Plt
   42
   58
   59
   Cr
   1.0
   0.9
   Glucose
   100
   199
   Other labs: PT / PTT / INR:17.3/36.9/1.6, ALT / AST:51/75, Alk Phos / T
   Bili:60/7.2, Albumin:3.0 g/dL, LDH:293 IU/L, Ca++:7.8 mg/dL, Mg++:1.8
   mg/dL, PO4:2.8 mg/dL
   Imaging: None
   Microbiology: None
   Assessment and Plan
   52F h/o ESLD secondary to HepC & EtOH with known varices and
   ulcerations transferred for recurrent upper GI bleed.
   # GIB: UGI source given known esophageal varices and ulcerations.
   Currently HD stable (baseline BP 90s due to ESLD) but continues to have
   melena and Hct drops, 4 Units pRBC & 2 units FFP o/n. Chronic
   coagulopathy and thrombocytopenia due to ESLD.
   - q4h Hct, transfuse<25
   - Protonix and octreotide IV gtt
   - Sucralfate
   - Maintain PIVs, attempt large bore
   - Active T&X
   - Transfuse platelets
   - Hold on TIPS if Hct remains stable
   # ESLD: Due to EtOH & Hep C; currently being evaluated for liver
   transplant (not listed yet). Grade III varices, portal hypertensive
   gastropathy and portal vein thrombosis. Mildly enceophalopathic on the
   floor but seems clear on arrival to unit.
   - Continue lactulose and cipro ppx for SBP
   - Consider rifaximin
   - Liver recs
   - Holding lasix, spironolactone and nadolol in setting bleed
   - Holding lovenox for PVT while GIB
   .
   # DIABETES: Cont SSI + home dose glargine 44 units QHS (half dose when
   NPO).
   .
   # NEUROPATHY: Stocking glove; likely [**2-26**] DM. Continue neurontin and
   home oxycodone but hold if MS clouds.
   .
   # FEN: NPO for possible TIPS
   # PPx: PPI gtt, lactulose, pneumoboots.
   # Access: PIV x3 (20 gauge), Cordis
   # Contact: [**Name (NI) 53**]
   # [**Name2 (NI) 66**]: Full
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-2-5**] 12:45 PM
   22 Gauge - [**2103-2-5**] 12:54 PM
   Cordis/Introducer - [**2103-2-5**] 04:05 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2103-02-07 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - No active bleeding
   - Transfused 2 units of FFP and 1 unit of platelets in PM for INR 1.7
   and platelets of 41.
   - AM Hct down 2.5 points overnight, transfused another 2 units of FFP
   - Replaced K and Phos
   - Decreased UOP to 5ml/hr at 5am, gave bolus of NS 500cc
   Allergies:
   Aspirin
   Unknown; Nausea
   Ibuprofen
   Unknown; Nausea
   Gabapentin
   Unknown; Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2103-2-4**] 10:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-2-7**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98
   HR: 77 (77 - 93) bpm
   BP: 111/59(72) {102/56(70) - 134/94(97)} mmHg
   RR: 14 (11 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  3,524 mL
                                                                  1,844 mL
   PO:
                                                                  1,430 mL
                                                                    280 mL
   TF:
   IVF:
                                                                    802 mL
                                                                    258 mL
   Blood products:
                                                                  1,292 mL
                                                                  1,306 mL
   Total out:
                                                                    820 mL
                                                                    455 mL
   Urine:
                                                                    820 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,704 mL
                                                                  1,389 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   NIF: -8 cmH2O
   Physical Examination
   Gen: Thin woman, jaundiced, appears comfortable sitting in chair
   HEENT: Scleral icterus, pale conjunctiva
   CV: S1 & S2 regular without murmur
   Pulm: B CTA
   Abd: Distended, non tender, good BS
   Ext: No edema
   Labs / Radiology
   55 K/uL
   10.1 g/dL
   174 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.4 mEq/L
   29 mg/dL
   109 mEq/L
   141 mEq/L
   27.5 %
   4.7 K/uL
        [image002.jpg]
                             [**2103-2-5**]  09:02 AM
                             [**2103-2-5**]  12:38 PM
                             [**2103-2-5**]  06:21 PM
                             [**2103-2-5**]  09:40 PM
                             [**2103-2-6**]  01:53 AM
                             [**2103-2-6**]  05:40 AM
                             [**2103-2-6**]  10:16 AM
                             [**2103-2-6**]  02:14 PM
                             [**2103-2-6**]  07:10 PM
                             [**2103-2-7**]  02:00 AM
   WBC
   5.0
   6.8
   4.7
   Hct
   19.4
   22.4
   24.1
   27.6
   24.5
   30.3
   31.6
   30.0
   30.2
   27.5
   Plt
   58
   59
   41
   55
   Cr
   0.9
   0.8
   0.9
   TropT
   0.01
   Glucose
   199
   174
   Other labs: PT / PTT / INR:18.1/35.4/1.7, CK / CKMB /
   Troponin-T://0.01, ALT / AST:51/75, Alk Phos / T Bili:60/7.2,
   Albumin:3.0 g/dL, LDH:293 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:1.7
   mg/dL
   Assessment and Plan
   52F h/o ESLD secondary to HepC & EtOH with known varices and
   ulcerations transferred for recurrent upper GI bleed.
   # GIB: UGI source given known esophageal varices and ulcerations.
   Currently HD stable (baseline BP 90s due to ESLD) but continues to have
   melena and Hct drops, 4 Units pRBC & 2 units FFP o/n. Chronic
   coagulopathy and thrombocytopenia due to ESLD.
   - q4h Hct, transfuse<25
   - Protonix and octreotide IV gtt
   - Sucralfate
   - Maintain PIVs, attempt large bore
   - Active T&X
   - Transfuse platelets
   - Hold on TIPS if Hct remains stable-will consider procedure if pt
   becomes hemodynamically unstable
   - f/u hepatology recs
   # ESLD: Due to EtOH & Hep C; currently being evaluated for liver
   transplant (not listed yet). Grade III varices, portal hypertensive
   gastropathy and portal vein thrombosis. Mildly enceophalopathic on the
   floor but seems clear on arrival to unit.
   - Continue lactulose and cipro ppx for SBP
   - Consider rifaximin
   - Liver recs
   - Holding lasix, spironolactone in setting bleed
   - Holding lovenox for PVT while GIB
   - Will restart Nadolol to decrease portal pressures and monitor SBP
   closely
   .
   # DIABETES: Cont SSI + home dose glargine 44 units QHS (half dose when
   NPO).
   .
   # NEUROPATHY: Stocking glove; likely [**2-26**] DM. Continue neurontin and
   home oxycodone but hold if MS clouds.
   .
   # FEN: Restart diet today, replete lytes as needed
   # PPx: PPI gtt, lactulose, pneumoboots.
   # Access: PIV x2 (20 gauge), Cordis-will d/c prior to floor transfer
   # Contact: [**Name (NI) 53**]
   # [**Name2 (NI) 66**]: Full
   # Dispo: ICU
 DIABETES MELLITUS (DM), TYPE I
 .H/O HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ESOPHAGEAL VARICES
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-2-5**] 12:45 PM
   22 Gauge - [**2103-2-5**] 12:54 PM
   Cordis/Introducer - [**2103-2-5**] 04:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: